US07816542B2
(3-Chloro-2-fluoro-phenyl)-hydrazine hydrochloride (Apollo Scientific, Ltd., 221 mg, 1.12 mmol) and 4-acetyl-benzoic acid methyl ester (200 mg, 1.12 mmol) are treated with anhydrous ZnCl2 (382 mg, 2.81 mmol) and acetic acid (10 mL). The reaction is heated to 105° C. for 48 hours. After cooling to room temperature, the reaction is diluted with ethyl acetate and sequentially washed with H2O (5×) followed by saturated aqueous NaCl. The organics are then dried over Na2SO4 and filtered. After concentration, the crude product is purified by preparative RP LC-MS to give 4-(6-chloro-7-fluoro-1H-indol-2-yl)-benzoic acid methyl ester as an off-white solid: ESMS m/z 304.0 (M+H+).

reactant | (3-Chloro-2-fluoro-phenyl)-hydrazine hydrochloride | 1.12 mmol, 221 mg | Cl.ClC=1C(=C(C=CC1)NN)F
reactant | 4-acetyl-benzoic acid methyl ester | 1.12 mmol, 200 mg | COC(C1=CC=C(C=C1)C(C)=O)=O | C10H10O3
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | ZnCl2 | 2.81 mmol, 382 mg | [Cl-].[Cl-].[Zn+2]
product | 4-(6-chloro-7-fluoro-1H-indol-2-yl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C=1NC2=C(C(=CC=C2C1)Cl)F)=O | C16H11ClFNO2
